US07951963B2
To 40 mL of tetrahydrofuran was suspended 4.72 g of sodium borohydride, to this solution were dropwise added tetrahydrofuran (60 mL) solution of 20 g of (1-benzothiophen-5-yl)acetic acid, and 6.12 g of sulfuric acid. The solution was heated to 66° C., followed by distilling off about 40 mL of the solvent under normal pressure, which was then stirred at same temperature for 1 hour. After cooling, to this reaction mixture was dropwise added 10 mL of acetone, which was then stirred for 30 minutes. Thereto were added 90 mL of water and 80 mL of toluene. The organic layer was separated, to which was added 60 mL of water, and the pH was adjusted to 13.6 with 5 mL of 5 mol/L sodium hydroxide aqueous solution. The organic layer was separated, washed with water, followed by distilling off the solvent, and thereto were added cyclohexane and toluene. The precipitate was collected by filtration to provide 16.5 g of 2-(1-benzothiophen-5-yl)ethanol as white solid form.

reactant | sodium borohydride | 4.72 g | [BH4-].[Na+]
reactant | (1-benzothiophen-5-yl)acetic acid | 20 g | S1C=CC2=C1C=CC(=C2)CC(=O)O | C10H8O2S
reactant | sulfuric acid | 6.12 g | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(1-benzothiophen-5-yl)ethanol | 16.5 g | S1C=CC2=C1C=CC(=C2)CCO | C10H10OS
